US07288544B2
2) Synthesis of 4-(3,5-dichlorophenyl)-6-methyl-2-phenoxy-N-(3-phenylpropyl)-5-pyrimidinecarboxamide:
39.3 mg (0.0798 mmol) of phenol was dissolved in DMF. 16.7 mg (0.418 mmol) of sodium hydride (60% oily substance) was added at 0° C. and stirred at the same temperature for 30 minutes. 100 mg (0.209 mmol) of 4-(3,5-dichlorophenyl)-6-methyl-2-methylsulfonyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was added at the same temperature and stirred heating to room temperature for 12 hours. After concentration under reduced pressure, the obtained residue was diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | phenol | 0.0798 mmol, 39.3 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 0.418 mmol, 16.7 mg | [H-].[Na+]
reactant | 4-(3,5-dichlorophenyl)-6-methyl-2-methylsulfonyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 0.209 mmol, 100 mg | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)S(=O)(=O)C | C22H21Cl2N3O3S
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3,5-dichlorophenyl)-6-methyl-2-phenoxy-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)OC1=CC=CC=C1 | C27H23Cl2N3O2
